US04584293
1-[7,8-Dimethoxy-1,3-dihydro-2H-3-benzazepin-3-yl]-3-[N-methyl-N-(6,7-dimethoxy-1,2,3,4-tetrahydronaphth-2-yl)-amino]-propane
The title compound is prepared from 1-[7,8-dimethoxy-1,3-dihydro-2H-3-benzazepin-2-on-3-yl]-3-[N-methyl-N-(6,7-dimethoxy-1,2,3,4-tetrahydronaphth-2-yl)-amino]-propane and lithium aluminum hydride analogously to Example 13. Mp: 115°-116° C.

reactant | 1-[7,8-dimethoxy-1,3-dihydro-2H-3-benzazepin-2-on-3-yl]-3-[N-methyl-N-(6,7-dimethoxy-1,2,3,4-tetrahydronaphth-2-yl)-amino]-propane | COC1=CC2=C(CC(N(C=C2)CCCN(C2CC3=CC(=C(C=C3CC2)OC)OC)C)=O)C=C1OC | C28H36N2O5
reactant | lithium aluminum hydride | [H-].[Al+3].[Li+].[H-].[H-].[H-]
product | 1-[7,8-Dimethoxy-1,3-dihydro-2H-3-benzazepin-3-yl]-3-[N-methyl-N-(6,7-dimethoxy-1,2,3,4-tetrahydronaphth-2-yl)-amino]-propane | COC1=CC2=C(CCN(C=C2)CCCN(C2CC3=CC(=C(C=C3CC2)OC)OC)C)C=C1OC | C28H38N2O4
